US09315521B2
A mixture of 5-(chloromethyl)-4-methyl-1,3-thiazole (887 mg, 4.9 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (600 mg, 4.2 mmol), and potassium carbonate (2.1 g, 15 mmol) in acetone (30 mL) was stirred at room temperature overnight. The solid material was removed by filtration. The filtrate was recovered and evaporated, co-evaporated with EtOAc (20 mL) and dried in vacuo. The solid residue was treated with diethyl ether (30 mL). The solid product was recovered by filtration, washed with diethyl ether (2×15 mL) and hexanes (1×15 mL), and dried in vacuo, affording 6-methyl-2-{[(4-methyl-1,3-thiazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol (1.0 g, 93% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.91 (s, 3H), 2.34 (s, 3H), 4.31 (s, 2H), 5.32 (s, 1H), 8.73 (s, 1H); M+254. The product was used without further purification.

reactant | 5-(chloromethyl)-4-methyl-1,3-thiazole | 4.9 mmol, 887 mg | ClCC1=C(N=CS1)C | C5H6ClNS
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 4.2 mmol, 600 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 15 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 6-methyl-2-{[(4-methyl-1,3-thiazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol | 1.0 g, 93% yield | CC1=CC(=NC(=N1)SCC1=C(N=CS1)C)O | C10H11N3OS2
